US05902905
2-(phenylsulfonyl)ethanol (143.8 g, purity 96.2%, 743 mmol) was added to 71.9 g of toluene, and 30.0 g (38 mmol) of pyridine was added to the mixture. The resulting solution was heated to 60° C., then 110.5 g (929 mmol) of thionyl chloride added over 5 hours at 60 to 70° C., and the mixture was stirred for 2 hours at 70° C. Then, the mixture was diluted with 143.9 g of toluene and cooled to 45° C. Then 303.2 g of 7% sodium bicarbonate solution and 193.4 g of toluene were added, washed separated. Obtained organic layer was mixed with 303.2 g of 7% sodium bicarbonate solution and stirred and separated. 5 g of the organic layer was sampled and subjected to HPLC analysis, which revealed that (β-chloroethylsulfonyl)benzene was obtained in a yield of 98% and phenylvinylsulfone in a yield of 0.7%. (Internal Standard: methyl benzoate).

reactant | 2-(phenylsulfonyl)ethanol | 743 mmol, 143.8 g | C1(=CC=CC=C1)S(=O)(=O)CCO | C8H10O3S
reactant | pyridine | 38 mmol, 30.0 g | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 929 mmol, 110.5 g | S(=O)(Cl)Cl | Cl2OS
reactant | sodium bicarbonate | 303.2 g | C([O-])(O)=O.[Na+]
solvent | toluene | 143.9 g | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 193.4 g | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 71.9 g | C1(=CC=CC=C1)C | C7H8
product | phenylvinylsulfone | yield of 98% | C1(=CC=CC=C1)S(=O)(=O)C=C | C8H8O2S
